US06831080B2
Step A: 1-(3-Morpholin-4-yl-phenyl)propan-1-one
A mixture of 3′-bromopropiophenone (11.4 g, 53 mmol), morpholine (60 mL), palladium acetate (300 mg, 2.5 mol %), di-t-butyl-biphenylphosphine (800 mg, 5 mol %), sodium t-butyloxide (6.1 g, 64 mmol) was stirred at 80° C. in a sealed tube for 24 hours. After cooling down, the reaction mixture was diluted with dichloromethane (150 mL) and washed with water (50 mL). The aqueous layer was extracted with dichloromethane (2×75 mL) and the combined organic layer was dried over magnesium sulfate and concentrated under vacuum. The crude product was purified by flash chromatography of Biotage with 25% ethyl acetate/hexanes to provide the title compound as pale yellow clear oil (4.23 g,).

reactant | 3′-bromopropiophenone | 53 mmol, 11.4 g | BrC=1C=C(C=CC1)C(CC)=O | C9H9BrO
reactant | morpholine | 60 mL | N1CCOCC1 | C4H9NO
reactant | sodium t-butyloxide | 64 mmol, 6.1 g | C(C)(C)(C)OC(C)(C)C.[Na]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | palladium acetate | 300 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(3-Morpholin-4-yl-phenyl)propan-1-one | 4.23 g | N1(CCOCC1)C=1C=C(C=CC1)C(CC)=O | C13H17NO2
